US07700599B2
1,1-Dimethylethyl (2S)-4-({4-[({5-[(3-fluorophenyl)oxy]-2-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D74)
The title compound was prepared from 1,1-dimethylethyl (2S)-4-({4-[[(5-bromo-2-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (D72) and 3-fluorophenol using a method similar to that described for D73 in Description 73 although 1 eq. CuCl and 0.25 eq. THMD were used. MS (ES): MH+ 535.3.

reactant | 1,1-dimethylethyl (2S)-4-({4-[[(5-bromo-2-pyridinyl)carbonyl](methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | BrC=1C=CC(=NC1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C24H31BrN4O3
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
reactant | THMD | CC(C)CCCC(C)CCCC(C)CCCC(C)CCC(=O)O | C21H42O2
catalyst | CuCl | Cl[Cu]
product | 1,1-Dimethylethyl (2S)-4-({4-[({5-[(3-fluorophenyl)oxy]-2-pyridinyl}carbonyl)(methyl)amino]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | FC=1C=C(C=CC1)OC=1C=CC(=NC1)C(=O)N(C1=CC=C(C=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C30H35FN4O4
